US07368578B2
A mixture of 3-{4-[(2-methoxy-4-{[(triisopropylsilyl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile (0.52 g), trimethyl tin azide (0.62 g) and toluene (10 mL) was heated under reflux for 15 hrs. The reaction mixture was concentrated, and the residue was subjected to silica gel column chromatography to give 5-(3-{4-[(2-methoxy-4-{[(triisopropylsilyl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)-1H-tetrazole as colorless crystals (0.36 g, yield 65%), from a fraction eluted with ethyl acetate-methanol (95:5, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 152-153° C.

reactant | 3-{4-[(2-methoxy-4-{[(triisopropylsilyl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile | 0.52 g | COC1=C(OCC=2N=C(OC2C)C=2C=C(C#N)C=CC2)C=CC(=C1)CO[Si](C(C)C)(C(C)C)C(C)C | C29H38N2O4Si
reactant | trimethyl tin azide | 0.62 g | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(3-{4-[(2-methoxy-4-{[(triisopropylsilyl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)-1H-tetrazole | 0.36 g, yield 65% | COC1=C(OCC=2N=C(OC2C)C=2C=C(C=CC2)C2=NN=NN2)C=CC(=C1)CO[Si](C(C)C)(C(C)C)C(C)C | C29H39N5O4Si
